US07074800B1
A solution of 4-(4-chloro-2-fluorophenoxy)-6-methoxy-7-(2-(tert-butoxycarbonyl)vinyl)quinazoline (581 mg, 1.31 mmol) in a mixture of methylene chloride/TFA (2.5 ml/2.5 ml) was stirred at ambient temperature for 1.5 hours. After removal of the volatiles under vacuum, the residue was partitioned between ethyl acetate and water. The aqueous layer was adjusted to pH3 with 0.5M sodium hydroxide. The organic layer was separated and the aqueous layer was further extracted with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4) and evaporated to give 7-(2-carboxyvinyl)-4-(4-chloro-2-fluorophenoxy)-6-methoxyquinazoline (430 mg, 85%).

reactant | 4-(4-chloro-2-fluorophenoxy)-6-methoxy-7-(2-(tert-butoxycarbonyl)vinyl)quinazoline | 1.31 mmol, 581 mg | ClC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)C=CC(=O)OC(C)(C)C)C=C1)F | C22H20ClFN2O4
solvent | methylene chloride TFA | 2.5 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | 7-(2-carboxyvinyl)-4-(4-chloro-2-fluorophenoxy)-6-methoxyquinazoline | 430 mg, 85% | C(=O)(O)C=CC1=C(C=C2C(=NC=NC2=C1)OC1=C(C=C(C=C1)Cl)F)OC | C18H12ClFN2O4
